US09238639B2
(6-((2,6-Dimethylpyridin-3-yl)methoxy)-4,7-dimethyl-1-benzofuran-3-yl)acetic acid
To a mixture of methyl(6-((2,6-dimethylpyridin-3-yl)methoxy)-4,7-dimethyl-1-benzofuran-3-yl)acetate (142.0 mg), MeOH (2.0 mL) and THF (dry) (2.0 mL) was added 1N NaOH (1.21 mL) at room temperature. The mixture was stirred at room temperature for 2 h. The mixture was neutralized with 1N HCl. The precipitate was collected by filtration. The solid was crystallized from IPA-EtOAc to give the title compound (100 mg).

reactant | methyl(6-((2,6-dimethylpyridin-3-yl)methoxy)-4,7-dimethyl-1-benzofuran-3-yl)acetate | 142.0 mg | COC(CC1=COC2=C1C(=CC(=C2C)OCC=2C(=NC(=CC2)C)C)C)=O | C21H23NO4
reactant | MeOH | 2.0 mL | CO | CH4O
reactant | NaOH | 1N, 1.21 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | (6-((2,6-Dimethylpyridin-3-yl)methoxy)-4,7-dimethyl-1-benzofuran-3-yl)acetic acid | 100 mg | CC1=NC(=CC=C1COC1=C(C2=C(C(=CO2)CC(=O)O)C(=C1)C)C)C | C20H21NO4
